US08012956B2
To a solution of 1,1,1-trifluorobutan-2-one (5.0 g, 39.9 mmol) and hydroxylamine hydrochloride (3.22 g, 46.3 mmol) in water (28 mL) was added a solution of sodium hydroxide (1.84 g, 46.0 mmol) in water (14 mL), then the mixture was brought to reflux for 4 hr. After cooling to room temperature, the mixture was extracted with dichloromethane (3×50 mL) and the combined organic layers were washed with water, brine, then dried over anhydrous sodium sulfate. Filtration and concentration then distillation using a 10 cm Vigreux column (b.p. 123-124° C.) afforded (E)-1,1,1-trifluorobutan-2-one oxime (2.50 g, 44.5% yield) as a clear liquid. 1H NMR (400 MHz, CDCl3): 9.18 (br s, 1H), 2.52 (q, 2H), 1.21 (t, 3H).

reactant | 1,1,1-trifluorobutan-2-one | 39.9 mmol, 5.0 g | FC(C(CC)=O)(F)F | C4H5F3O
reactant | hydroxylamine hydrochloride | 46.3 mmol, 3.22 g | Cl.NO
reactant | sodium hydroxide | 46.0 mmol, 1.84 g | [OH-].[Na+]
solvent | water | 28 mL | O | H2O
solvent | water | 14 mL | O | H2O
product | (E)-1,1,1-trifluorobutan-2-one oxime | 2.50 g, 44.5% yield | FC(/C(/CC)=N/O)(F)F | C4H6F3NO
